US04035366
2.21 g. (0.01 mole) of 1-benzal-1,2,3,4-tetrahydroisoquinoline and 2.38 g. (0.01 mole) of theophylline-7-acetic acid are dissolved under boiling in 25 ml. of n-propanol. The undissolved substances is filtered from the hot solution. The clear filtrate is crystallized while the mixture is cooled. The precipitated crystals are filtered out, covered with n-propanol and dried at room temperature. Thus 2.2 g. of 1-benzal-1,2,3,4-tetrahydroisoquinolinium-theophylline-7-acetate yield 48%) are obtained. Mp.: 168°-173° C. After recrystallization from a twofold amount of n-propanol the melting point was 195°-198° C.

reactant | 1-benzal-1,2,3,4-tetrahydroisoquinoline | 0.01 mole | C(C1=CC=CC=C1)=C1NCCC2=CC=CC=C12 | C16H15N
reactant | theophylline-7-acetic acid | 0.01 mole | N1(C)C(=O)N(C)C=2N=CN(C2C1=O)CC(=O)O | C9H10N4O4
solvent | n-propanol | C(CC)O | C3H8O
product | 1-benzal-1,2,3,4-tetrahydroisoquinolinium theophylline-7-acetate | yield 48% | C(C1=CC=CC=C1)=C1[NH2+]CCC2=CC=CC=C12.N1(C)C(=O)N(C)C=2N=CN(C2C1=O)CC(=O)[O-] | InChI=1S/C16H15N.C9H10N4O4/c1-2-6-13(7-3-1)12-16-15-9-5-4-8-14(15)10-11-17-16;1-11-7-6(8(16)12(2)9(11)17)13(4-10-7)3-5(14)15/h1-9,12,17H,10-11H2;4H,3H2,1-2H3,(H,14,15)
